US07432378B2
5-Chloro-2-[3-chloro-4-(3-piperazin-1-yl-propoxy)-phenyl]-6-fluoro-1H-benzoimidazole
4-{3-[2-Chloro-4-(5-chloro-6-fluoro-1H-benzoimidazol-2-yl)-phenoxy]-propyl}-piperazine-1-carboxylic acid tert-butyl ester. This compound was prepared by the method described in Example 1, using 4-[3-(2-chloro-4-formyl-phenoxy)-propyl]-piperazine-1-carboxylic acid tert-butyl ester (1.0 g, 2.6 mmol, 1.0 equiv), 4-chloro-5-fluoro-benzene-1,2-diamine (421 mg, 2.6 mmol, 1.0 equiv), and Na2S2O5 (648 mg, 3.4 mmol, 1.3 equiv) in General Procedure 3. Purification by Method 2 afforded 256 mg (15%) of the title compound. MS (electrospray): mass calculated for C25H29Cl2FN4O3, 522.16; m/z found, 545.3 [M+Na]+.

reactant | 4-{3-[2-Chloro-4-(5-chloro-6-fluoro-1H-benzoimidazol-2-yl)-phenoxy]-propyl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCOC1=C(C=C(C=C1)C1=NC2=C(N1)C=C(C(=C2)Cl)F)Cl | C25H29Cl2FN4O3
reactant | 4-[3-(2-chloro-4-formyl-phenoxy)-propyl]-piperazine-1-carboxylic acid tert-butyl ester | 2.6 mmol, 1.0 g, 1.0 equiv | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCOC1=C(C=C(C=C1)C=O)Cl | C19H27ClN2O4
reactant | 4-chloro-5-fluoro-benzene-1,2-diamine | 2.6 mmol, 421 mg, 1.0 equiv | ClC=1C=C(C(=CC1F)N)N | C6H6ClFN2
product | 5-Chloro-2-[3-chloro-4-(3-piperazin-1-yl-propoxy)-phenyl]-6-fluoro-1H-benzoimidazole | 256 mg, 15% | ClC1=CC2=C(NC(=N2)C2=CC(=C(C=C2)OCCCN2CCNCC2)Cl)C=C1F | C20H21Cl2FN4O
